US06426345B1
To a mixture of 4-(3-aminophenyl)-3-oxo-2-benzyl-3,4-dihydropyrido[2,3-b]pyrazine (131 mg) and triethylamine (0.067 ml) in dichloromethane (3 ml) was added benzoyl chloride (0.056 ml). The mixture was stirred at room temperature for 30 minutes, then poured into a mixture of ethyl acetate and aqueous sodium bicarbonate solution. The organic phase was separated, washed with brine, dried over magnesium sulfate and concentrated. The residue was crystallized from isopropyl ether to give 4-(3-benzoylaminophenyl)-3-oxo-2-benzyl-3,4-dihydropyrido-[2,3-b]pyrazine (110 mg).

reactant | 4-(3-aminophenyl)-3-oxo-2-benzyl-3,4-dihydropyrido[2,3-b]pyrazine | 131 mg | NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C20H16N4O
reactant | triethylamine | 0.067 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.056 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-benzoylaminophenyl)-3-oxo-2-benzyl-3,4-dihydropyrido-[2,3-b]pyrazine | 110 mg | C(C1=CC=CC=C1)(=O)NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C27H20N4O2
